US08242125B2
tert-Butyl 4-(1H-indol-5-yloxy)-5H-pyrrolo[3,4-d]pyrimidine-6 (7H)-carboxylate (152.2 mg, 0.432 mmol) is suspended in THF (5 mL), flushed with nitrogen and cooled to 0° C. NaH (33 mg, 0.825 mmol, 60% in mineral oil) is added and mixture is stirred for 10 minutes. Phenyl 2-methylbenzofuran-5-ylcarbamate (280 mg, 1.048 mmol) is added neat and the reaction is allowed to stir to room temperature overnight. The reaction is cooled in an ice bath and quenched with a saturated solution of ammonium chloride (100 mL). The solution is then diluted with ethyl acetate and the product is extracted (2×100 mL ethyl acetate). The organic layers are combined, dried and concentrated to a brown oil that is dissolved in 10 mL of DCM and cooled in an ice bath upon which 10 mL of TFA is added. The TFA is removed and ethyl acetate is added to the residue and ammonium hydroxide is added to quench the remaining TFA. The solution is concentrated and dissolved in DMSO and is purified via semi-prep HPLC (C18; 20-100% I/H2O with 0.1% TFA) to give 5-(6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid (2-methyl-benzofuran-5-yl)-amide. MS (ESI) m/z 426.0 (M+1); 1H NMR (400 MHz, MeOD) δ ppm 8.53 (s, 1H) 8.30 (d, J=8.84 Hz, 1H) 8.15-8.20 (m, 1H) 7.88-7.92 (m, 1H) 7.58 (ddd, J=6.13, 3.98, 2.27 Hz, 1H) 7.39-7.46 (m, 2H) 7.12 (dd, J=9.09, 2.02 Hz, 1H) 6.74 (d, J=3.79 Hz, 1H) 6.46 (s, 1H) 4.19 (d, J=9.35 Hz, 4H) 2.45 (s, 3H).

reactant | tert-Butyl 4-(1H-indol-5-yloxy)-5H-pyrrolo[3,4-d]pyrimidine-6 (7H)-carboxylate | 0.432 mmol, 152.2 mg | N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)CN(C2)C(=O)OC(C)(C)C | C19H20N4O3
reactant | NaH | 0.825 mmol, 33 mg | [H-].[Na+]
reactant | Phenyl 2-methylbenzofuran-5-ylcarbamate | 1.048 mmol, 280 mg | CC=1OC2=C(C1)C=C(C=C2)NC(OC2=CC=CC=C2)=O | C16H13NO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-(6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid (2-methyl-benzofuran-5-yl)-amide | CC=1OC2=C(C1)C=C(C=C2)NC(=O)N2C=CC1=CC(=CC=C21)OC=2C1=C(N=CN2)CNC1 | C24H19N5O3
